US06642256B2
A mixture of 4-(4-fluorobenzyl)-1-[3-(2-oxo-2,3-dihydrobenzoxazol-6-yl)-4,5-dihydroisoxazol-5-ylmethyl]piperidine-4-carboxylic acid ethyl ester (390 mg, 0.81 mmol) and 20% aq. NaOH (4.5 mL) in EtOH (4.5 mL) was heated to reflux for 16 hours. After stirring at ambient temperature overnight, the reaction solvent was removed under reduced pressure. The reaction mixture was diluted with water, brought to pH 3 with 1N HCl, and extracted with EtOAc (2×). The combined extracts were dried (Na2SO4) and concentrated under reduced pressure. Purification by chromatography (silica, 79:20:1 CH2Cl2/MeOH/AcOH) followed by recrystallization from MeOH/Et2O gave 4-(4-fluorobenzyl)-1-[3-(2-oxo-2,3-dihydrobenzoxazol-6-yl)-4,5-dihydroisoxazol-5-ylmethyl]piperidine-4-carboxylic acid (28 mg, 8%) as a yellow solid:

reactant | 4-(4-fluorobenzyl)-1-[3-(2-oxo-2,3-dihydrobenzoxazol-6-yl)-4,5-dihydroisoxazol-5-ylmethyl]piperidine-4-carboxylic acid ethyl ester | 0.81 mmol, 390 mg | C(C)OC(=O)C1(CCN(CC1)CC1CC(=NO1)C1=CC2=C(NC(O2)=O)C=C1)CC1=CC=C(C=C1)F | C26H28FN3O5
reactant | NaOH | 4.5 mL | [OH-].[Na+]
solvent | EtOH | 4.5 mL | CCO | C2H6O
product | 4-(4-fluorobenzyl)-1-[3-(2-oxo-2,3-dihydrobenzoxazol-6-yl)-4,5-dihydroisoxazol-5-ylmethyl]piperidine-4-carboxylic acid | 28 mg, 8% | FC1=CC=C(CC2(CCN(CC2)CC2CC(=NO2)C2=CC3=C(NC(O3)=O)C=C2)C(=O)O)C=C1 | C24H24FN3O5
